US08809363B2
Ethyl (4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate
Sodium iodide (994.0 g, 6.63 Mol) was added over 5 minutes to a stirred solution of acetyl chloride (177 mL, 2.48 Mol) and ethyl (4-chloro-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate (Preparation 4, 257 g, 0.83 Mol) in acetonitrile (2.0 L) at room temperature. The resulting mixture was heated to reflux and stirred for 30 hours. The mixture was allowed to cool to room temperature and stood for 72 hours. The solids were collected by filtration and washed with cold acetonitrile (500 mL). The solids were partitioned between dichloromethane (1.5 L) and water (0.75 L). The aqueous layer was basified to pH 9 by addition of 2 M sodium hydroxide solution and the two layers were separated. The organic layer was washed with 2 M sodium thiosulphate solution (800 mL), brine (800 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to give the title compound (260.0 g, 78%) as a beige solid. This material was determined by 1H NMR spectroscopy to be a 13:1 mixture of ethyl (4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate and ethyl (4-chloro-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate respectively.

reactant | Sodium iodide | 6.63 Mol, 994.0 g | [I-].[Na+]
reactant | acetyl chloride | 2.48 Mol, 177 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethyl (4-chloro-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate | 0.83 Mol, 257 g | ClC1=C2C(=NC(=C1C(=O)OCC)C)SC1=C2CCCC1 | C15H16ClNO2S
solvent | acetonitrile | 2.0 L | C(C)#N | C2H3N
product | Ethyl (4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate | 260.0 g, 78% | IC1=C2C(=NC(=C1C(=O)OCC)C)SC1=C2CCCC1 | C15H16INO2S
